US08071581B2
Compound 142: 3-(1H-Imidazol-4-yl)-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline
To a solution of 4-bromo-1-trityl-1H-imidazole (103 mg, 0.24 mmol, 1.0 equiv) in tetrahydrofuran (1 mL) was added ethyl magnesium bromide (3M in diethylether, 0.094 mL, 0.28 mmol, 1.2 equiv) and the reaction was stirred for 90 min. ZnCl2 (38 mg, 0.28 mmol, 1.2 equiv) was then added and the solution stirred for an additional 90 min. Tetrakis (triphenylphosphine)palladium (2 mg, 0.024 mmol, 0.10 equiv) and 3-bromo-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline (100 mg, 0.28 mmol, 1.2 equiv) were added and the solution heated at 70° C. for 18 hours. The solvent was removed in vacuo and the residue absorbed onto silica gel and purified by flash chromatography (SiO2, CH2Cl2:CH3OH 100:0-80:20 to return 6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(3-trityl-3H-imidazol-4-yl)-quinoline. The trityl group was removed by stirring the compound in methanolic hydrochloric acid (0.5 N) for 3 hours. The volatiles were removed in vacuo and the residue stirred in ethanol and collected via filtration and dried to return the title compound (5.6 mg, 8% yield). Analytical data presented in Table 2.

reactant | 4-bromo-1-trityl-1H-imidazole | 0.24 mmol, 103 mg, 1.0 equiv | BrC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17BrN2
reactant | ethyl magnesium bromide | 0.28 mmol, 3M, 0.094 mL, 1.2 equiv | C(C)[Mg]Br
reactant | 3-bromo-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 0.28 mmol, 100 mg, 1.2 equiv | BrC=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C | C16H12BrN5
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | ZnCl2 | 0.28 mmol, 38 mg, 1.2 equiv | [Cl-].[Cl-].[Zn+2]
product | 3-(1H-Imidazol-4-yl)-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 5.6 mg, 8% yield | N1C=NC(=C1)C=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C | C19H15N7
